US08242125B2
Methanesulfonyl chloride (0.046 mL, 0.586 mmol) is added to a solution of 4-fluoro-5-(2-hydroxymethyl-pyrimidin-4-yloxy)-2-methyl-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide (180 mg, 0.391 mmol) and Et3N (0.109 mL, 0.782 mmol) in CH2Cl2 (5 mL) at 0° C. After 10 min, ethanolamine (0.236 mL, 3.91 mmol) is added and the resulting mixture is warmed to and stirred at 23° C. for 4 h. MeOH (2 mL) is added and the reaction is stirred for another 15 h. The reaction mixture is partitioned between EtOAc (40 mL) and water (40 mL). The aqueous layer is extracted with EtOAc (2×40 mL). The combined organic layers are washed with brine (30 mL), dried (Na2SO4), and concentrated. The residue is purified by silica gel chromatography (0-10% MeOH/CH2Cl2) to give 4-fluoro-5-{2-[(2-hydroxy-ethylamino)-methyl]-pyrimidin-4-yloxy}-2-methyl-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide. MS (ESI) m/z 504.2 (M+1); 1H NMR (400 MHz, MeOD) δ ppm 8.60 (d, J=5.81 Hz, 1H) 8.07 (s, 1H) 7.86 (s, 1H) 7.57-7.62 (m, 1H) 7.46-7.51 (m, 2H) 7.09 (dd, J=8.84, 7.33 Hz, 1H) 6.98 (d, J=5.81 Hz, 1H) 6.54 (s, 1H) 3.82 (s, 2H) 3.55-3.58 (m, 2H) 2.65-2.71 (m, 2H) 2.62 (s, 3H).

reactant | Methanesulfonyl chloride | 0.586 mmol, 0.046 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-fluoro-5-(2-hydroxymethyl-pyrimidin-4-yloxy)-2-methyl-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 0.391 mmol, 180 mg | FC(C=1C=C(C=CC1)NC(=O)N1C(=CC2=C(C(=CC=C12)OC1=NC(=NC=C1)CO)F)C)(F)F | C22H16F4N4O3
reactant | Et3N | 0.782 mmol, 0.109 mL | CCN(CC)CC | C6H15N
reactant | ethanolamine | 3.91 mmol, 0.236 mL | C(O)CN | C2H7NO
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 2 mL | CO | CH4O
product | 4-fluoro-5-{2-[(2-hydroxy-ethylamino)-methyl]-pyrimidin-4-yloxy}-2-methyl-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)N1C(=CC2=C(C(=CC=C12)OC1=NC(=NC=C1)CNCCO)F)C)(F)F | C24H21F4N5O3
